US09062038B2
A mixture of Ethyl 5-(4-chlorobenzyl)-2-iodo-1,3-oxazole-4-carboxylate (261 mg, 0.666 mmol), Tetrakis(triphenylphosphine)palladium(0) (38.5 mg, 0.0333 mmol), Copper(I) iodide (38.1 mg, 0.200 mmol) and Lithium chloride (84.8 mg, 2.00 mmol) under atmosphere of argon was dissolved in 1,4-Dioxane (18 mL) and Trimethyl(4-pyridyl)tin (207 uL, 1.20 mmol) was added. The mixture was heated at 100° C. for 2 h. The mixture was evaporated and the residue was purified by chromatography to afford Ethyl 5-(4-chlorobenzyl)-2-pyridin-4-yl-1,3-oxazole-4-carboxylate (0.133 g, 58.2%). LCMS (FA) ES+ 343.2, 345.1

reactant | Ethyl 5-(4-chlorobenzyl)-2-iodo-1,3-oxazole-4-carboxylate | 0.666 mmol, 261 mg | ClC1=CC=C(CC2=C(N=C(O2)I)C(=O)OCC)C=C1 | C13H11ClINO3
reactant | Lithium chloride | 2.00 mmol, 84.8 mg | [Cl-].[Li+]
reactant | Trimethyl(4-pyridyl)tin | 1.20 mmol, 207 uL | C[Sn](C1=CC=NC=C1)(C)C
solvent | 1,4-Dioxane | 18 mL | O1CCOCC1 | C4H8O2
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.0333 mmol, 38.5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | Copper(I) iodide | 0.200 mmol, 38.1 mg | [Cu]I
product | Ethyl 5-(4-chlorobenzyl)-2-pyridin-4-yl-1,3-oxazole-4-carboxylate | 0.133 g, 58.2% | ClC1=CC=C(CC2=C(N=C(O2)C2=CC=NC=C2)C(=O)OCC)C=C1 | C18H15ClN2O3
